US06828443B1
10.0 g (38.6 mmoles) of N-(1-naphthyl)-ethylenediamine dihydrochloride were dissolved in a little water and neutralized with dilute sodium hydroxide solution. After the addition of 120 ml of ethanol and 6.4 g of potassium carbonate (46.3 mmoles), 7.2 g (38.7 mmoles) of 2,4-dinitrofluorobenzene were added dropwise. After refluxing for 1 hour, the whole was cooled to room temperature and the deposit was filtered off under suction and washed with water/ethanol. The intermediate product (2-(2,4-dinitrophenyl)-amino)-ethyl)-naphthylamine was obtained in the form of red crystals with a melting point of 263° C.

reactant | N-(1-naphthyl)-ethylenediamine dihydrochloride | 38.6 mmoles, 10.0 g | Cl.Cl.C1(=CC=CC2=CC=CC=C12)NCCN
reactant | ethanol | 120 ml | C(C)O | C2H6O
reactant | potassium carbonate | 46.3 mmoles, 6.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,4-dinitrofluorobenzene | 38.7 mmoles, 7.2 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])F | C6H3FN2O4
solvent | water | O | H2O
solvent | sodium hydroxide | [OH-].[Na+]
product | naphthylamine | C=1C=CC=2C=C(C=CC2C1)N | C10H9N
